datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C(C)C1O 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)C>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCCCCCC)C1=CC=CC=C1)C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C(O)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCN([C:20](=[O:10])OCCCCCC)C.[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC>>CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C)CCCCCC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)C)C>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)C)C 21=20;20,10=10"
"[NH:10]([H])C(C1=C(C([CH:20](C)=[O:21])[H])C=CC=C1)C>>[O-:21][CH:20]2(C)C(C3=C(C([NH+:10]2([H]))C)C=CC=C3)[H] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"CC1C(O[C:20](N1[H])([O-:10])[Cl:21])C>>CC1C(O[C:20](=[O:10])N1[H])C.[Cl-:21] 10=20;20,21=21"
"[NH:10]([H])C(CC)C(O)C(C)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)C(O)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CC[O:10][H].CC[NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]CC)([NH]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10][H].[H][NH+:21]=[C:20]([O]CC)[NH]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([O]CC)[NH]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC)C)C>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC)C)C 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[O+:10]([Na])[C:21]([O-:20])(O[H])OCC>>[O:20]=[C:21](O[H])OCC.CC[O:10][Na] 20=21;21,10=10"
